US08541411B2
a) 6-bromo-2-isopropyl-4-nitro-1H-benzo[d]imidazole
A mixture of 5-bromo-3-nitrobenzene-1,2-diamine (prepared following the same procedure as for Example 1, 5.0 g) in isobutyric acid (20 mL) was stirred at 120° C. overnight. The mixture was cooled to room temperature and poured into water (100 mL). The pH was neutralized with aqueous Na2CO3 solution. It was then extracted with EtOAc and the organic layer was washed with water and brine, dried over anhydrous MgSO4, filtered and concentrated in-vacuo. The residue was then purified by silica gel chromatography eluted with EtOAc:petroleum ether=1:1 to afford the desired product as a yellow solid (4.7 g, 77%). 1H NMR (300 MHz, CDCl3) δ ppm 1.51 (m, 6H, J=6.9 Hz), 3.32 (m, 1H, J=6.9 Hz), 8.16 (d, 1H, J=1.5 Hz), 8.25 (d, 1H, J=1.5 Hz), 10.26 (br s, 1H); LC-MS: m/e=284 [M+1]+

reactant | 5-bromo-3-nitrobenzene-1,2-diamine | BrC1=CC(=C(C(=C1)N)N)[N+](=O)[O-] | C6H6BrN3O2
reactant | water | 100 mL | O | H2O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | isobutyric acid | 20 mL | C(C(C)C)(=O)O | C4H8O2
product | 6-bromo-2-isopropyl-4-nitro-1H-benzo[d]imidazole | 4.7 g, 77% | BrC=1C=C(C2=C(NC(=N2)C(C)C)C1)[N+](=O)[O-] | C10H10BrN3O2
